US04800228
2-(4-methoxybenzyl)-3-methyl-5-propyl-6-ethylthio-4,7-benzofurandione
To a suspension of 2-(4-methoxybenzyl)-3-methyl-5-propyl-4,7-benzofurandione (from Preparation 28) (0.988 g, 3.05 mmol) in MeOH (23 mL) was added ethanethiol (2.5 mL). After a few minutes, the yellow quinone passed into solution giving a reddish colour. The reaction was cooled to 0° C. and solid FeCl3 (2.5g) was added. The reaction was quenched 10% HCl and extraction with CH2Cl2 afforded the crude product which was chromatographed on silica gel (5% EtOAc/hexane) to yield the title compound.

reactant | 2-(4-methoxybenzyl)-3-methyl-5-propyl-4,7-benzofurandione | 3.05 mmol, 0.988 g | COC1=CC=C(CC=2OC3=C(C2C)C(C(=CC3=O)CCC)=O)C=C1 | C20H20O4
reactant | ethanethiol | 2.5 mL | C(C)S | C2H6S
solvent | MeOH | 23 mL | CO | CH4O
product | 2-(4-methoxybenzyl)-3-methyl-5-propyl-6-ethylthio-4,7-benzofurandione | COC1=CC=C(CC=2OC3=C(C2C)C(C(=C(C3=O)SCC)CCC)=O)C=C1 | C22H24O4S
